US07659263B2
To a solution of methyl 5-(2,4-bisbenzyloxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.36 g, 2.90 mmol) in N,N-dimethylformamide (15 ml) was added sodium hydride (60% in oil, 127 mg, 3.19 mmol) under ice-cooling and the mixture was stirred for 20 min. 3-Bromocyclohexene (0.34 ml, 2.95 mmol) was added and the mixture was stirred under ice-cooling for 50 min. Ethyl acetate (20 ml) was added to the reaction mixture, and the organic layer was washed successively with water (20 ml×3) and saturated brine (10 ml) and dried over sodium sulfate. After filtration and concentration, a mixed solvent (10 ml) of hexane:ethyl acetate (10:1) was added. The precipitated solid was collected by filtration. The solid was washed with a mixed solvent (5 ml×3) of hexane:ethyl acetate (10:1), and dried under reduced pressure to give methyl 5-(2,4-bisbenzyloxyphenyl)-6-(cyclohex-2-enyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (1.35 g, yield 85%).

reactant | methyl 5-(2,4-bisbenzyloxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 2.90 mmol, 1.36 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=CC2=C(N1)C=C(S2)C(=O)OC | C28H23NO4S
reactant | sodium hydride | 3.19 mmol, 127 mg | [H-].[Na+]
reactant | 3-Bromocyclohexene | 2.95 mmol, 0.34 ml | BrC1C=CCCC1 | C6H9Br
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 5-(2,4-bisbenzyloxyphenyl)-6-(cyclohex-2-enyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.35 g, yield 85% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2C=CCCC2 | C34H31NO4S
